US06365736B1
M) 6-(2-Thienyl)-2-methyl-1,4-benzoxazin-3-(4H)-one
315 mg of 6-bromo-2-methyl-1,4-benzoxazin-3-(4H)-one is mixed in 4 ml of DME with 0.2 g of 2-thiopheneboronic acid and 150 mg of tetrakis-triphenylphosphine-palladium (O) and 340 mg of sodium bicarbonate (dissolved in 4 ml of water). It is stirred for some time at 100° C. The product is diluted with ethyl acetate, extracted 3 times with water, and dried with magnesium sulfate. It is concentrated by evaporation. The crude product is purified by column chromatography with a hexane/ethyl acetate mixture and yields pure 33% product.

reactant | 6-bromo-2-methyl-1,4-benzoxazin-3-(4H)-one | 315 mg | BrC=1C=CC2=C(NC(C(O2)C)=O)C1 | C9H8BrNO2
reactant | 2-thiopheneboronic acid | 0.2 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium bicarbonate | 4 ml, 340 mg | C([O-])(O)=O.[Na+]
solvent | DME | 4 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(2-Thienyl)-2-methyl-1,4-benzoxazin-3-(4H)-one | 33% | S1C(=CC=C1)C=1C=CC2=C(NC(C(O2)C)=O)C1 | C13H11NO2S
